US07351849B2
To a solution of 4-trifluoromethylaniline (193 mg, 1.2 mmol) and 3-crotonoyl-1,3-oxazolidin-2-one (155 mg, 1.0 mmol) in toluene (3 ml) in a stream of nitrogen was added Pd((R)-binap)(H2O)2(OTf)2 (26.6 mg, 0.025 mmol) and the resulting mixture was stirred at room temperature for 16 hours. After completion of the reaction, a saturated aqueous solution of ammonium chloride (10 ml) was added to the reaction mixture and the resulting mixture was extracted with ethyl acetate (10 ml). The organic layer was dried over anhydrous magnesium sulfate. The solvent was then evaporated off and the crude product obtained was purified by a silica gel column chromatography (hexane:ethyl acetate=1:1) to give the objective compound 3-(4-trifluoromethylanilino)butyryl-1,3-oxazolidin-2-one (238 mg, 75% yield). Enantiomeric excess ratio of this product was determined by a liquid chromatography using a column for separation of optical isomers (column: AD-H) to be 83% e.e.

reactant | 4-trifluoromethylaniline | 1.2 mmol, 193 mg | FC(C1=CC=C(N)C=C1)(F)F | C7H6F3N
reactant | 3-crotonoyl-1,3-oxazolidin-2-one | 1.0 mmol, 155 mg | C(\C=C\C)(=O)N1C(OCC1)=O | C7H9NO3
reactant | ammonium chloride | 10 ml | [Cl-].[NH4+]
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(4-trifluoromethylanilino)butyryl-1,3-oxazolidin-2-one | 238 mg, 75% yield | FC(C1=CC=C(NC(CC(=O)N2C(OCC2)=O)C)C=C1)(F)F | C14H15F3N2O3
